US06057337
2-(1-Octadecanoyl-2-piperidyl)ethyl 4-benzyltetrahydro-1 (2H)-pyrazinecarboxylate hydrochloride (Compound 25)
4N Hydrochloric acid/ethyl acetate solution (1.24 ml) was added to a solution of 2-(1-octadecanoyl-2-piperidyl)ethyl 4-benzyltetrahydro- 1 (2H)-pyrazinecarboxylate (2.465 g) in ethyl acetate (25 ml). After being stirred for 30 minutes, the reaction mixture was concentrated. The residue was recrystallized with ethyl acetate, thereby yielding the entitled compound (2.041 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.24 ml | Cl.C(C)(=O)OCC
reactant | 2-(1-octadecanoyl-2-piperidyl)ethyl 4-benzyltetrahydro- 1 (2H)-pyrazinecarboxylate | 2.465 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCC)=O | C37H63N3O3
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-(1-Octadecanoyl-2-piperidyl)ethyl 4-benzyltetrahydro-1 (2H)-pyrazinecarboxylate hydrochloride | 2.041 g | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C(=O)OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCC)=O | InChI=1S/C37H63N3O3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-19-25-36(41)40-27-21-20-24-35(40)26-32-43-37(42)39-30-28-38(29-31-39)33-34-22-17-16-18-23-34;/h16-18,22-23,35H,2-15,19-21,24-33H2,1H3;1H
